US08048887B2
2-(4-Fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(2-methyloxazol-4-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide
5-(2-(4-Fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid (0.15 g, 0.34 mmol, 1 eq), 1-(2-methyloxazol-4-yl)cyclopropanamine (0.047 g, 0.34 mmol, 1 eq), EDCI.HCl (0.076 g, 0.4 mmol, 1.2 eq), HOBT (0.054 g, 0.4 mmol, 2 eq) and TEA (0.14 ml, 1.02 mmol, 3 eq) were dissolved in dichloromethane and the reaction was stirred at room temperature for 14 h. The reaction was diluted with water and the product was extracted with dichloromethane and purified by preparative HPLC yielding the desired product. Yield: 47 mg (25%)1H NMR (400 MHz, DMSO-d6): δ 1.12-1.15 (m, 2H), 1.21-1.24 (m, 2H), 2.29 (s, 3H), 2.34 (s, 3H), 2.81-2.82 (d, 3H, J=4.60 Hz), 3.95 (s, 3H), 7.12 (s, 1H), 7.31-7.32 (m, 1H), 7.34-7.40 (t, 2H, J=3.21 Hz), 7.56 (s, 1H), 7.61 (s, 1H), 7.71 (s, 1H), 7.73 (s, 1H), 7.97-8.01 (m, 2H), 8.46-8.48 (m, 1H), 8.67 (s, 1H). LCMS: (ES+) m/z=554.2 (M+H). Column: Ascentis Express C18 (5×2.1 mm-2.7 μm). Mphase A: 2% ACN-98% H2O-10 mM NH4COOH. Mphase B: 98% ACN-2% H2O-10 mM NH4COOH. Flow-1 mL/Min

reactant | 5-(2-(4-Fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid | 0.34 mmol, 0.15 g, 1 eq | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C(=CC(=C(C(=O)O)C2)OC)C | C25H20FNO5
reactant | 1-(2-methyloxazol-4-yl)cyclopropanamine | 0.34 mmol, 0.047 g, 1 eq | CC=1OC=C(N1)C1(CC1)N | C7H10N2O
reactant | EDCI.HCl | 0.4 mmol, 0.076 g, 1.2 eq | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.4 mmol, 0.054 g, 2 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-(4-Fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(2-methyloxazol-4-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=C(C(=C2)C(NC2(CC2)C=2N=C(OC2)C)=O)OC)C | C32H28FN3O5
